US06656956B2
b) 2-[2-(4-cyanophenyl)-ethyl]-1-methyl-5-methylamino-benzimidazole
11.2 g (30.0 mmol) of N-{2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-trifluoroacetamide, 10.5 g (76.0 mmol) of potassium carbonate and 2.0 mL of methyliodide were stirred for 3 hours in 80 mL of dimethylsulphoxide at 40-50° C. Then the mixture was diluted with 100 mL of ethyl acetate, poured onto water and extracted. The organic phase is again washed with water, dried and concentrated by evaporation. The residue is chromatographed on silica gel. The methylated trifluoroacetamide is taken up in MeOH, with 10 mL of conc. aqueous ammonia solution and stirred for 4 h at 30-40° C. The methanol is distilled off, the residue is taken up in 75 mL of ethyl acetate, washed with water, dried and evaporated down. The product is crystallised from diethylether.

reactant | N-{2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-trifluoroacetamide | 30.0 mmol, 11.2 g | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NC(C(F)(F)F)=O | C19H15F3N4O
reactant | potassium carbonate | 76.0 mmol, 10.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyliodide | 2.0 mL | CI | CH3I
solvent | dimethylsulphoxide | 80 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4-cyanophenyl)-ethyl]-1-methyl-5-methylamino-benzimidazole | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NC | C18H18N4
